US03935314
A mixture of 2-(5-aminobenzimidazolyl) amino-2-imidazoline (0.48g, 0.0022 mol) and acetic anhydride (0.0022 mol) in ethanol (20 ml) was heated under reflux for 2 hours. The cooled reaction mixture was evaporated in vacuo and the resulting solid dissolved in methanol. Treatment with dry hydrogen chloride gas followed by ethyl acetate gave brown microcrystals (0.33 g). Recrystallisation from methanol/ethyl acetate gave a poor recovery of slightly hydroscopic 2-(5-acetylamino-2-benzimidazolyl) amino-2-imidazoline (50 mg) as colourless microcrystals m.p. 294°C (with shrinking). EXAMPLES 43 and 44

reactant | 2-(5-aminobenzimidazolyl) amino-2-imidazoline | 0.0022 mol, 0.48g | NC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C10H12N6
reactant | acetic anhydride | 0.0022 mol | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(5-acetylamino-2-benzimidazolyl) amino-2-imidazoline | 50 mg | C(C)(=O)NC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C12H14N6O
